US07279469B2
A mixture of 6-chloro-nicotinonitrile (2.77 g, 20 mmol) and hydrazine hydrate (15 mL) was stirred at 100° C. for 3 h and evaporated. The residue was suspended in ether and filtered, then suspended in sodium bicarbonate solution and filtered, washing with water, and dried to provide 6-hydrazino-nicotinonitrile (1.25 g, 46% yield) as a tan solid. 1H-NMR (DMSO-d6, 500 MHz) 8.59 (s, 1H), 8.35 (s, 1H), 7.74 (d, 1H), 6.75(s, 1H), 4.44 (s, 2H) ppm; MS (FIA) 135.1 (M+H).

reactant | 6-chloro-nicotinonitrile | 20 mmol, 2.77 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | hydrazine hydrate | 15 mL | O.NN
product | 6-hydrazino-nicotinonitrile | 1.25 g, 46% yield | N(N)C1=NC=C(C#N)C=C1 | C6H6N4
